US07291744B2
A solution of the crude 3-(4-fluorophenyl)propanal and propylamine (3.0 g, 51 mmol) in CH2Cl2 and was treated with NaBH(OAc)3 and stirred at room temperature overnight. The reaction was quenched with 1 N NaOH, and washed successively with water and brine. The solvent was evaporated under vacuum to give 4.3 g of 3-(4-fluorophenyl)-N-propylpropan-1-amine.

reactant | 3-(4-fluorophenyl)propanal | FC1=CC=C(C=C1)CCC=O | C9H9FO
reactant | propylamine | 51 mmol, 3.0 g | C(CC)N | C3H9N
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-(4-fluorophenyl)-N-propylpropan-1-amine | 4.3 g | FC1=CC=C(C=C1)CCCNCCC | C12H18FN
